Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Xanax / Tylenol
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a a history of recent 
pneumonia, CAD who presents with dyspnea. She lives in an 
assisted living facility and she was increasingly short of 
breath today. She reports shortness of breath at rest and feels 
that she cannot speak in full sentences. She endorses orthopnea, 
but usually sleeps on 2 pillows and this has not recently 
changed. She endorses a non-productive cough today, but denies 
fevers. Of note, she is s/p a course of levofloxacin for 
pneumonia. She denies chest pain, nausea, vomiting, abdominal 
pain, diaphoresis, leg swelling or calf tenderness. She denies 
dysuria, urgency, frequency.  
In the ED initial vitals were: HR 132 (rapid afib) BP 150/74 RR 
28 99% Non-rebreather  
- Labs were significant for WBC 10.3, Cr 1.9 (unknown baseline), 
BNP 12337. Lactate 1.1.  
UA: Leuk est moderate, blood negative, nitrite negative, WBC 7, 
Bacteria few  
- Patient was given Diltiazem 20 mg IV for rapid afib and 
converted to sinus rhythm  
Vitals prior to transfer were: 97.3 HR 74 136/75 19 95% RA  
On the floor, she states she is "irritable." Dyspneic with mild 
exertion.  

 
Past Medical History:
Bipolar d/o  
H/O UTI  
H/O AMS  
CAD  
CKD (baseline Cr unknown)  
OA  
Esophageal stricture  
Hypertrophic cardiomyopathy  
Peripheral vascular disease  
Hypothyroidism  
HLD  
HTN  
Osteoporosis  

 
Social History:
___
Family History:
No known family history of early cardiac disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals - 97.6 153/94 87 20 95% 2L  
GENERAL: Somewhat irritable, seated at 30 degrees, speaking in 
short sentences  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry mucous membranes  
NECK: nontender supple neck, no LAD, JVD to mid neck  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Bibasilar crackles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
Vitals: T 98.1 BP 162/63 (140s-160s) HR 53 RR 18 O2 97% on 2LNC
I/O: 540/480 since midnight; 1220/___ -830L yesterday
weight: 86.6 (bed wt) <- 85.6 <- 86.8 or 85.6 <- 84.7 <- 88.2kg 
<- 90.7
tele: sinus rhythm without alarms, HR ___
GENERAL: alert, dyspneic but speaking in full sentences  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry mucous membranes  
NECK: nontender supple neck, no LAD, JVD wnl
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: crackles at bases bilaterally
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LABS:
___ 09:00PM BLOOD WBC-10.3 RBC-3.58* Hgb-11.4* Hct-35.4* 
MCV-99* MCH-32.0 MCHC-32.4 RDW-14.8 Plt ___
___ 09:00PM BLOOD Neuts-74.6* Lymphs-17.3* Monos-5.5 
Eos-2.3 Baso-0.2
___ 09:00PM BLOOD ___ PTT-27.8 ___
___ 09:00PM BLOOD Glucose-146* UreaN-31* Creat-1.9* Na-141 
K-3.7 Cl-105 HCO3-26 AnGap-14
___ 09:00PM BLOOD cTropnT-<0.01 ___
___ 07:35AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:00AM BLOOD Calcium-9.3 Phos-4.3 Mg-1.9
___ 09:13PM BLOOD Lactate-1.1

PERTINENT LABS:
___ 05:25AM BLOOD %HbA1c-5.7 eAG-117
___ 07:35AM BLOOD Triglyc-103 HDL-35 CHOL/HD-3.2 LDLcalc-56
___ 07:35AM BLOOD TSH-3.4

DISCHARGE LABS:
___ 05:25AM BLOOD WBC-10.4 RBC-3.76* Hgb-12.0 Hct-36.4 
MCV-97 MCH-32.0 MCHC-33.0 RDW-14.8 Plt ___
___ 05:25AM BLOOD ___ PTT-39.8* ___
___ 05:25AM BLOOD Glucose-101* UreaN-38* Creat-2.0* Na-140 
K-3.7 Cl-103 HCO3-28 AnGap-13
___ 05:25AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.1

INR TREND:
___ 09:00PM BLOOD ___ PTT-27.8 ___ coumadin 
5mg
___ 07:35AM BLOOD ___ PTT-28.5 ___ coumadin 
5mg
___ 05:25AM BLOOD ___ PTT-31.5 ___ coumadin 
2mg
___ 05:45AM BLOOD ___ PTT-35.2 ___ coumadin 
held
___ 05:35AM BLOOD ___ PTT-39.3* ___ coumadin 
2mg
___ 05:25AM BLOOD ___ PTT-39.8* ___ coumadin 
1mg

MICRO:
___ 09:59PM URINE Color-Straw Appear-Clear Sp ___
___ 09:59PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD
___ 09:59PM URINE RBC-0 WBC-7* Bacteri-FEW Yeast-NONE Epi-0
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
EMERGENCY WARD NEGATIVE
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
NEGATIVE
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
EMERGENCY WARD NEGATIVE

IMAGING: 
ECHO ___:
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is severely depressed (LVEF= 
25 %) with global hypokinesis and regional inferior akinesis. 
There is no ventricular septal defect. Right ventricular chamber 
size is normal. with mild global free wall hypokinesis. The 
aortic root is mildly dilated at the sinus level. The ascending 
aorta is mildly dilated. The aortic arch is mildly dilated. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild to moderate 
(___) mitral regurgitation is seen. The tricuspid valve 
leaflets are mildly thickened. There is moderate pulmonary 
artery systolic hypertension. There is a trivial/physiologic 
pericardial effusion. There are no echocardiographic signs of 
tamponade.  
 
CXR ___: IMPRESSION:  
Cardiac failure with pulmonary edema and bilateral pleural 
effusions.  
 
EKG: Not obtained in ED, on floor in NSR with frequent PVCs

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of recent 
pneumonia, CAD who presents with sudden onset of dyspnea, found 
to have radiographic evidence of pulmonary edema and elevated 
BNP consistent with new onset heart failure.  

# Acute CHF with EF 25%: The most likely etiology of her dyspnea 
is a CHF exacerbation vs. acute presentation given elevated JVD, 
crackles on exam, and elevated BNP. The precipitant of CHF 
exacerbation was unclear and unfortunately no records were 
available in our system. She denies any new medications, 
troponin was normal in the ED. No known valvular disease, though 
again no records available in our system. Arrhythmia is high on 
the differential, particularly as she presented in Afib with RVR 
to the ED. Her history per nursing home notes is notable for 
cardiomyopathy and her current presentation may be progression 
of her underlying cardiac dysfunction. Differential also 
includes an episode of severe hypertension, renal failure, 
hyper/hypothyroidism, PVC induced cardiomyopathy or infectious 
process (pneumonia, UTI). No evidence of pneumonia on CXR but 
she did have UA concerning for UTI so was started on 
ciprofloxacin but discontinued when culture returned negative. 
Patient received lasix 20mg IV on ___, 40mg IV on ___, 40mg IV 
on ___, 40mg IV lasix x 2 on ___ and switched to 40mg PO on 
___. Attempts to contact her PCP were made several times but 
there was no response. Records were requested but only the last 
progress note from PCP was obtained. Per secretary at ___ 
office, there were no records of any cardiac work up including 
echocardiogram or catheterization. Her problem list includes ?MI 
as well as cardiomyopathy. However, patient was not on any 
cardiac meds on arrival. She had an echo which showed overall 
left ventricular systolic function is severely depressed (LVEF= 
25 %) with global hypokinesis and regional inferior akinesis, RV 
mild global free wall hypokinesis, Mild to moderate (___) 
mitral regurgitation, and moderate pulmonary artery systolic 
hypertension. It was suggested that patient undergo ischemic 
work up. However, patient declined and insisted on returning to 
nursing home. She was started on atorvastatin 80mg and aspirin 
81mg. She was intermittently hypertensive during admission to 
160s so lisinopril was started at 10mg and uptitrated to 40mg 
daily. She was started on metoprolol. She was discharged on 40mg 
lasix PO daily. She should have daily weights checked and follow 
a low sodium diet. She was admitted on oxygen but weaned off 
before discharge.
   
# Afib with RVR: CHADS2 score= 3. Unclear if this was her first 
episode. ___ have been precipitant of CHF as above vs 
precipitated by CHF exacerbation. Broke with diltiazem in the 
ED. The morning following admission, she went into a fib with 
RVR into 130s-140s sustained with spikes into 170s. She was 
started on metoprolol for rate control. She remained in normal 
sinus rhythm with rates in the 50-60s during admission. She was 
started on coumadin at a dose of 5mg and when INR increased to 
INR now 2.2, decreased dose to 2mg daily. INR returned at 3.8 
___ so held coumadin. Resumed 2mg on ___ and INR increased to 
3.7 on ___ so decreased dose to 1mg daily going forward. She 
should have frequent INR checks at ___ home to determine 
appropriate dose. Continued aspirin 81mg.  

# UTI: Patient presented with dirty UA but asymptomatic. She was 
started on ciprofloxacin but culture returned negative so DCed 
ciprofloxacin.
 
# Hypothyroidism: Continued home levothyroxine, TSH wnl
  
# CAD: Continued home aspirin. Started on atorvastatin 80mg. BP 
control with lisinopril and metoprolol.

# Insomnia: Trazodone prn for sleep

# Back pain: received tramadol as needed for pain  

# Code: DNR/DNI  
# Communication: Patient# Emergency Contact: Proxy name: ___ 
___ ___ 
Relationship: Son   - unable to reach during admission, left 
multiple messages

Transitional:
- Patient started on 40mg po lasix daily, please monitor weights 
daily
- Patient started on lisinopril and uptitrated to 40mg daily for 
BP control
- Patient discharged on 75mg metoprolol succinate XL and 
warfarin 1mg daily for Afib
- Please check INR on ___ and adjust warfarin dose as 
needed
- Patient had new diagnoses of systolic heart failure with EF 
25% of unclear etiology. It was suggested that she undergo 
ischemic work up. However, patient declined and insisted on 
returning to nursing home. She will follow up with cardiolgy as 
an outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enulose (lactulose) 10 gram/15 mL oral PRN 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Bisacodyl 10 mg PO DAILY:PRN constipation 
5. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
dyspnea 
6. melatonin 3 mg oral PRN insomnia 
7. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Bisacodyl 10 mg PO DAILY:PRN constipation 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. TraZODone 25 mg PO QHS:PRN insomnia 
5. Atorvastatin 80 mg PO QPM 
6. Lisinopril 40 mg PO DAILY 
7. Senna 17.2 mg PO BID:PRN constipation 
8. Warfarin 1 mg PO DAILY16 
9. Enulose (lactulose) 10 gram/15 mL oral PRN 
10. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H:PRN 
dyspnea 
11. melatonin 3 mg oral PRN insomnia 
12. Docusate Sodium (Liquid) 100 mg PO BID 
13. Furosemide 40 mg PO DAILY 
14. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours prn Disp #*30 Tablet Refills:*0
15. Metoprolol Succinate XL 75 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Acute systolic congestive heart failure
Paroxysmal atrial fibrillation

Secondary:
HTN
CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for shortness of breath and found to 
have acute congestive heart failure. Your breathing improved 
with diuretic medication. Please continue to take your lasix and 
weigh yourself every day and call you doctor if your weight 
increases by more than 3 lbs or if your shortness of breath 
worsens. The reason for your heart failure is not clear and you 
declined further intervention as you wished to go home. Please 
follow up with your new cardiologist as an outpatient.

You were also noted to occasionally have a rapid irregular heart 
rhythm so you were started on a medication to slow your heart 
rate called metoprolol and a blood thinning medication called 
warfarin to prevent strokes. You will need to have frequent 
blood draws to check your INR, a marker of how the blood thinner 
is working. 
 
Followup Instructions:
___